US04490369
(a) 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane
1.1 gm (0.005 mol) of 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one were suspended in 15 ml of absolute dimethylsulfoxide, and the suspension was mixed with 0.67 gm (0.006 mol) of potassium tert. butoxide, while stirring. After 10 minutes, the suspension thus obtained was added dropwise to 0.64 ml (0.006 mol) of 1-bromo-3-chloro-propane in 10 ml of dimethylsulfoxide, while cooling with ice water. After one hour the mixture was poured into water. After a short time the viscous precipitate began to crystallize. The precipitate was suction-filtered off, dissolved in acetone, precipitated again with water, and then suction-filtered off and dried

reactant | 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 0.005 mol, 1.1 gm | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
reactant | potassium tert. butoxide | 0.006 mol, 0.67 gm | CC(C)([O-])C.[K+]
reactant | 1-bromo-3-chloro-propane | 0.006 mol, 0.64 ml | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
